Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
Colonoscopy ___

 
History of Present Illness:
___ w/pmh anxiety, colonoscopy five days ago with two polyps
removed presents w/BRBPR and clots in bowel movements. 

On arrival to the ED, she reports now developing mild abdominal
pain in LLQ. No fever, chills, vomiting, diarrhea. No recent
travel or sick contacts. 
 
In the ED, initial VS were:  98.2 82 118/70 16 98% RA 
Exam notable for: 
- BRBPR
- No abdominal or flank tenderness
Labs showed:  CBC, Chem10, coags all wnl. UA with 16 WBC and 3
epi. 
Imaging showed: 
CXR : No acute cardiopulmonary process. No evidence of
pneumoperitoneum. 
Patient received: 
___ 01:27 IV Morphine Sulfate 4 mg  
___ 02:51 IV Morphine Sulfate 4 mg 
___ 03:08 PO MoviPrep 1 L 
GI was consulted and recommended admission for colonoscopy. 
Transfer VS were:  77 125/81 14 100% RA 

On arrival to the floor, patient reports some diffuse tenderness
and 5 days of clotty bowel movements. No other acute complaints. 

 
REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI  
 
Past Medical History:
Alcohol abuse, in remission 
Anxiety disorder 
Dilation of pancreatic duct 
Serrated adenoma of colon 
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
===========================
VS:  97.9 119/76 65 12 100 RA 
GENERAL: Adult female in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 
.
DISCHARGE PHYSICAL EXAM: 
===========================
VS: 98.5 100/63 75 18 98% RA  
 GENERAL: Adult female in NAD  
 HEENT: AT/NC, EOMI, anicteric sclera, pink conjunctiva, MMM  
 NECK: supple  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing, or edema  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
Labs on admission:
======================
___ 12:11AM BLOOD WBC-6.4 RBC-4.12 Hgb-13.2 Hct-39.3 MCV-95 
MCH-32.0 MCHC-33.6 RDW-12.3 RDWSD-42.6 Plt ___
___ 12:11AM BLOOD Neuts-35.8 ___ Monos-9.8 Eos-2.2 
Baso-0.9 Im ___ AbsNeut-2.29# AbsLymp-3.27 AbsMono-0.63 
AbsEos-0.14 AbsBaso-0.06
___ 12:11AM BLOOD ___ PTT-34.4 ___
___ 12:11AM BLOOD Glucose-110* UreaN-22* Creat-0.8 Na-142 
K-5.0 Cl-103 HCO3-28 AnGap-11
___ 09:45AM BLOOD Calcium-9.7 Phos-4.2 Mg-2.0
.
Reports/Imaging:
======================
CXR ___:
IMPRESSION:  
No acute cardiopulmonary process.  No evidence of 
pneumoperitoneum. 
.
Colonoscopy ___:
Findings: 
Contents: Bright red blood and clots were seen in the colon from 
the rectum to the ascending colon.  
.
Excavated Lesions: A single ulcer was found at the site of 
recent polypectomy at approximately 15cm. There was active 
extravasation of bright red blood on one aspect of the site. 
Three endoclips were successfully applied to the polypectomy 
site for the purpose of hemostasis. 8 cc.Epinephrine ___ 
injection was applied for hemostasis with success.  
.
Other: Giving findings and intervention at the site of 
polypectomy, as well as the fact that the other interventions 
were biopsies and not polypectomies, the decision was made to 
end the procedure once hemostasis had been confirmed t the 15 cm 
polypectomy site. The most proximal area examined was the 
ascending colon at approximately 35cm.  
.
Impression: Ulcer in the colon (endoclip, injection)
Blood in the colon
Giving findings and intervention at the site of polypectomy, as 
well as the fact that the other interventions were biopsies and 
not polypectomies, the decision was made to end the procedure 
once hemostasis had been confirmed t the 15 cm polypectomy site. 
The most proximal area examined was the ascending colon at 
approximately 35cm.
Otherwise normal colonoscopy to ascending colon 
.
Microbiology:
======================
___ 10:38AM URINE Color-Straw Appear-Clear Sp ___
___ 10:38AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 12:11AM URINE RBC-3* WBC-16* Bacteri-FEW* Yeast-NONE 
Epi-3 TransE-<1
___ 12:11AM URINE Mucous-RARE*
Urine culture x 2 - contamined
.
Labs on discharge:
======================
___ 03:38AM BLOOD WBC-4.9 RBC-3.57* Hgb-11.3 Hct-34.5 
MCV-97 MCH-31.7 MCHC-32.8 RDW-12.3 RDWSD-43.1 Plt ___
___ 03:38AM BLOOD Plt ___
___ 03:38AM BLOOD Glucose-87 UreaN-10 Creat-0.6 Na-143 
K-4.2 Cl-108 HCO3-24 AnGap-11
___ 03:38AM BLOOD Calcium-8.9 Phos-3.5 Mg-1.___ w/PMH anxiety, colonoscopy five days ago with two polyps 
removed presented w/BRBPR and clots in bowel movements. 
.
#BRBPR:
Patient remained hemodynamically stable with normal/baseline 
hemoglobin. She underwent colonoscopy on ___ which showed an 
ulcer at the site of the polypectomy with active extravasation 
of bright red blood. Three endoclips were applied and 
epinephrine injected, with hemostasis achieved. Patient had some 
post-colonoscopy rectal pain and bloating, which improved 
overnight with flexeril and tylenol. No further episodes of 
bleeding occurred aside from directly after the procedure.
.
Transitional issues:
[] please assess for further episodes of bleeding, consider 
testing CBC
[] discharge hemoglobin/hematocrit 11.3/34.5 (admission 
13.2/39.3)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 

 
Discharge Medications:
1.  Citalopram 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Bright red blood per rectum
Recent polypectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It has been a pleasure taking part in your care. You were 
admitted to ___ for bleeding 
from your gastrointestinal tract, after having two polyps 
removed the week before. You were evaluated through physical 
exams, laboratory tests, and a colonoscopy, which showed a 
stable blood count in your blood, and showed the source of 
bleeding at the site of one of the polyps removed. Clips were 
placed to stop the bleeding, as well as a medication injected to 
stop bleeding. You improved, with no additional episodes of 
bleeding overnight.

Please follow up with the appointment as listed below. You 
should call your primary care physician office to confirm an 
appointment within the next ___ days. We are working to set up 
an appointment, but if you do not hear from their office by 
later today, please call.

Please seek medical attention if you have any further 
gastrointestinal bleeding, lightheadedness, shortness of breath, 
chest pain, or any other symptoms that concern you.

We wish you the best,
Your ___ care team
 
Followup Instructions:
___